US07932390B2
A solution of 5-amino-O-cresol (10.0 g, 81 mmol) (Aldrich) in a mixture of tetrahydrofuran (100 mL), water (150 mL) and concentrated sulfuric acid (6 mL, 0.11 mmol) was cooled in an ice-water bath. A solution of sodium nitrite (5.6 g, 81 mmol) in water (30 mL) was added dropwise over 30 minutes. Mixture was stirred with cooling for another 30 minutes. (A suspension formed). Powder copper metal (200 mg, 3 mmol) was added followed by a solution of potassium iodide (17.5 g, 0.11 mmol) in water (70 mL). Mixture was allowed to warm to room temperature and stirred for 90 minutes then poured into water (200 mL). Mixture was extracted with ethyl acetate (2×400 mL). Organic layers were washed with water (400 mL) and brine (400 mL), then combined, dried (MgSO4), filtered and concentrated. Residue was purified by flash chromatography (Biotage 75 L, hexanes-dichloromethane 2:3 as solvent). Pure fractions were combined and material recrystallized from hexanes to give 5-iodo-2-methyl-phenol as white needles in 2 crops. (Yield 10.08 g, 53.0%).

reactant | 5-amino-O-cresol | 81 mmol, 10.0 g | CC1=C(C=C(C=C1)N)O | C7H9NO
reactant | sulfuric acid | 0.11 mmol, 6 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 81 mmol, 5.6 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 0.11 mmol, 17.5 g | [I-].[K+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | water | 30 mL | O | H2O
solvent | water | 70 mL | O | H2O
catalyst | copper | 3 mmol, 200 mg | [Cu] | Cu
solvent | water | 200 mL | O | H2O
solvent | water | 150 mL | O | H2O
product | 5-iodo-2-methyl-phenol | IC=1C=CC(=C(C1)O)C | C7H7IO
